US06271225B1
Potassium tert-butoxide (718 mg) was suspended in 1,2-dimethoxyethane (35 ml) and the mixture was refluxed under heating. Thereto was added dropwise ethyl 2-(2-aminoanilino)benzo[b]thiophene-3-carboxylate (1.0 g) dissolved in 1,2-dimethoxyethane (35 ml) over 15 minutes. After 30 minutes, potassium tert-butoxide (359 mg) was added and the mixture was refluxed under heating for 1 hour. After the completion of the reaction, the reaction mixture was allowed to cool to room temperature and poured into 0.5N hydrochloric acid. The mixed solution was extracted 3 times with chloroform, and washed with water and dried over magnesium sulfate. The solution was filtered and the solvent was evaporated under reduced pressure. The precipitated crude crystals were washed with ethyl acetate and diisopropyl ether to give 6H-[1]benzothieno[2,3-b][1,5]benzodiazepin-12(11H)-one (300 mg).

reactant | Potassium tert-butoxide | 718 mg | CC(C)([O-])C.[K+]
reactant | ethyl 2-(2-aminoanilino)benzo[b]thiophene-3-carboxylate | 1.0 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=CC=C1 | C17H16N2O2S
reactant | potassium tert-butoxide | 359 mg | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
product | 6H-[1]benzothieno[2,3-b][1,5]benzodiazepin-12(11H)-one | 300 mg | C1=CC=CC2=C1C1=C(NC3=C(NC1=O)C=CC=C3)S2 | C15H10N2OS
